US05824679
940 mg N-(dimethyloxophosphinyl-methyl)-N-[3-(2-amino-ethoxy)-5-methyl-phenyl]-2-methoxy-benzene sulfonamide, 400 mg (2.2 mmol) 3,4,5-trichloropyridazine and 0.31 ml (2.2 mmol) triethylamine in 20 ml dry tetrahydrofuran were stirred for 2 h at 80° C., the solvent was removed in a vacuum, the residue was stirred with water, extracted three times with ethyl acetate, dried over sodium sulfate, filtered, the solvent was removed in a vacuum and 1.26 g (quant.) of a mixture of N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,5-dichloropyridazin-4-ylamino)-ethoxy]-5-methylphenyl-}-2-methoxy-benzenesulfonamide and N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methylphenyl}-2-methoxy-benzenesulfonamide was obtained as an oil. MS (m/e)=573.

reactant | N-(dimethyloxophosphinyl-methyl)-N-[3-(2-amino-ethoxy)-5-methyl-phenyl]-2-methoxy-benzene sulfonamide | 940 mg | CC(N(S(=O)(=O)C1=C(C=CC=C1)OC)C1=CC(=CC(=C1)C)OCCN)(P(=O)=O)C | C19H25N2O6PS
reactant | 3,4,5-trichloropyridazine | 2.2 mmol, 400 mg | ClC=1N=NC=C(C1Cl)Cl | C4HCl3N2
reactant | triethylamine | 2.2 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methylphenyl}-2-methoxy-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OC)C1=CC(=CC(=C1)C)OCCNC=1C(=C(N=NC1)Cl)Cl)(P(=O)=O)C | C23H25Cl2N4O6PS
